US06521643B1
To a stirred solution of 2-methyl-4-methoxypyridine (2.03 g) in tetrahydrofuran (20 ml) was added a solution of n-butyllithium in n-hexane (1.63M, 12.1 ml) dropwise at −50° C. under a nitrogen atmosphere, and the mixture was warmed to 0° C. The mixture was cooled to −50° C., and N,N-dimethylacetamide (1.99 ml) was added dropwise. Then the mixture was warmed to room temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 100 g, n-hexane:ethyl acetate=1:2) to give 1-(4-methoxypyridin-2-yl)propan-2-one (2.35 g).

reactant | 2-methyl-4-methoxypyridine | 2.03 g | CC1=NC=CC(=C1)OC | C7H9NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 1.99 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.63M, 12.1 ml | CCCCCC | C6H14
product | 1-(4-methoxypyridin-2-yl)propan-2-one | 2.35 g | COC1=CC(=NC=C1)CC(C)=O | C9H11NO2
